US06670447B2
Synthesis of N-acetyl-L-alanine-(S)-1-(p-tolyl)ethylamide (Compound No. 36)
(S)-3-Acetyl-4-methyl-2,5-oxazolidinedione (N-acetyl-L-alanine-NCA)(424 mg, 2.7 mmol) was dissolved in ethyl acetate (10 mL), followed by the addition of (S)-1-(p-tolyl)ethylamine (406 mg, 3 mmol) at 0° C. The resulting mixture was stirred for 30 minutes. The reaction mixture was poured into 1 N hydrochloric acid (25 mL), followed by extraction with ethyl acetate (25 mL). The organic layer was washed successively with a saturated aqueous solution of sodium hydrogencarbonate (25 mL) and a saturated aqueous solution of sodium chloride (25 mL), and was then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the resulting white solid was washed with hexane-ethyl acetate to afford the title compound (380 mg, 57%) as white crystals.

reactant | (S)-3-Acetyl-4-methyl-2,5-oxazolidinedione | 2.7 mmol, 424 mg | C(C)(=O)N1C(OC([C@@H]1C)=O)=O | C6H7NO4
reactant | (S)-1-(p-tolyl)ethylamine | 3 mmol, 406 mg | C1(=CC=C(C=C1)[C@H](C)N)C | C9H13N
reactant | hydrochloric acid | 1 N, 25 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-acetyl-L-alanine-(S)-1-(p-tolyl)ethylamide | 380 mg, 57% | C1(=CC=C(C=C1)[C@H](C)NC([C@@H](NC(C)=O)C)=O)C | C14H20N2O2
